US04382143
A solution of 7.20 g. of 4-(hexadecylamino)-2-thiophenecarboxylic acid in 25 ml. of hexamethylphosphoramide is added to a stirred mixture of 0.800 g. of sodium hydride (57% in mineral oil) and 25 ml. of hexamethylphosphoramide. The solution which forms after one hour is treated with 11.0 g. of ethyl iodide and is then stirred at 25° C. for 18 hours. Dilution with water followed by filtration affords a white solid which is crystallized from ethanol to yield ethyl 4-(hexadecylamino)-2-thiophenecarboxylate as a white solid.

reactant | 4-(hexadecylamino)-2-thiophenecarboxylic acid | C(CCCCCCCCCCCCCCC)NC=1C=C(SC1)C(=O)O | C21H37NO2S
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl iodide | C(C)I | C2H5I
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | ethyl 4-(hexadecylamino)-2-thiophenecarboxylate | C(CCCCCCCCCCCCCCC)NC=1C=C(SC1)C(=O)OCC | C23H41NO2S
